### ISSUE TITLE
BZMathlib review: post-#5046 audit of zpoly_size_pos_of_monic hoist (call-site coverage, framing, cross-file)

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#5053]
## Current state

PR #5049 (closes #5046) hoists
`private theorem zpoly_size_pos_of_monic` above
`monic_primitive_sign_normalized_of_monic` at
`HexBerlekampZassenhausMathlib/Basic.lean:4473` and collapses the
13-line `hcs_pos` inline block at the (pre-hoist) `Basic.lean:4479`
onto the helper. After #5049 merges, `zpoly_size_pos_of_monic` will
sit at roughly `Basic.lean:4470` (the slot immediately above
`monic_primitive_sign_normalized_of_monic`), one call site reachable
above the theorem.

This issue audits the post-#5049 state of the Monic-route cluster's
`zpoly_size_pos_of_monic` neighbourhood for the same three
invariants the cascade has been auditing throughout (#5031, #5041,
#5048):

1. **Call-site coverage.** Every site in
   `HexBerlekampZassenhausMathlib/Basic.lean` and
   `HexBerlekampZassenhausMathlib/IntReductionMod.lean` that derives
   `0 < f.size` (or `0 < f.coeffs.size`) from
   `Hex.DensePoly.Monic f` routes through `zpoly_size_pos_of_monic`
   rather than inlining the
   `Nat.eq_zero_or_pos` / `Array.back?_eq_getElem?` /
   `leadingCoeff_eq_coeff_last` chain. The expected count after
   #5049 merges is *zero* inline Monic-source sites — the only one
   known at issue-write time is the line-4479 block that #5046 / #5049
   rewires.
2. **Framing and docstring.** The `zpoly_size_pos_of_monic`
   docstring carries the contract-first one-line shape
   (`/-- Monic integer polynomials have positive stored size. -/`)
   adopted in #5033 and matches the framing of its Monic-route
   siblings (`zpoly_ne_zero_of_monic`, `zpoly_lc_pos_of_monic`).
   No PR-number / session metadata in the docstring or surrounding
   comments. Visibility remains `private`.
3. **Cross-file consistency.** `zpoly_size_pos_of_monic` is defined
   exactly once across `Basic.lean` and `IntReductionMod.lean`
   (i.e. has not been duplicated into `IntReductionMod.lean` to
   serve a hypothetical call there, nor shadowed in any way).

The audit is read-only: a single comment on this issue containing
the three invariant verdicts with verbatim grep commands and
expected-vs-observed counts. It mirrors the structure of the #5031
/ #5041 / #5048 audit comments.

## Deliverables

Post a single audit comment on this issue with three sections.

1. **Invariant 1 (call-site coverage).** Run at least these greps
   from the repository root and report each output verbatim:

   ```
   grep -nE "rw \[Array\.back\?_eq_getElem\?\]" \
        HexBerlekampZassenhausMathlib/*.lean
   grep -nE "Hex\.DensePoly\.Monic \w+" \
        HexBerlekampZassenhausMathlib/*.lean
   grep -nE "have h\w+_size_pos : 0 < \w+\.size := by" \
        HexBerlekampZassenhausMathlib/Basic.lean
   git grep -n "zpoly_size_pos_of_monic" \
        HexBerlekampZassenhausMathlib
   ```

   For each `0 < ?.size` derivation that surfaces, classify the
   source hypothesis (`Monic`, `pos_lc`, `≠ 0`, other) and confirm
   that every `Monic`-source site routes through
   `zpoly_size_pos_of_monic`. `pos_lc`-source sites at
   `Basic.lean:8214` and `Basic.lean:8425` are *out of scope* for
   this audit — they are covered by the separate `_of_pos_lc`
   extraction issue (the parallel sibling work item filed alongside
   this one). The audit should note them as a deviation if and only
   if that issue has not yet landed.

2. **Invariant 2 (framing and docstring).** Confirm the docstring
   on `zpoly_size_pos_of_monic` (the line immediately above its
   definition) matches the contract-first one-liner shape of the
   other documented Monic-route cluster heads (cluster heads
   audited under #5031; reference `zpoly_ne_zero_of_monic` and
   `zpoly_lc_pos_of_monic` at their post-#5028 locations for the
   exact shape). Confirm visibility is `private` and the
   surrounding section comment, if any, does not carry PR-number
   or session metadata.

3. **Invariant 3 (cross-file consistency).** Verify exactly one
   definition site across both files:

   ```
   git grep -nE "^\s*private theorem zpoly_size_pos_of_monic" \
        HexBerlekampZassenhausMathlib
   ```

   Should return exactly one line, in `Basic.lean`.

For each invariant, finish with **PASS** or **DEVIATION: <one-sentence
description>**. If any deviation is found, the audit comment
additionally drafts a follow-up issue title and body in the same
"Current state / Deliverables / Context / Verification" shape used
by this issue.

No code changes. This is a review work item — read-only.

## Context

This audit closes the Monic-route cluster's `_size_pos` thread the
same way #5048 closes the `zpoly_dvd_trans` thread: every
extract-and-rewire cycle in the post-#4991 cascade is followed by a
three-invariant audit confirming the helper's neighbourhood is
consistent. Without this audit, regressions (missed call sites, drift
in docstring framing, duplicate definitions across files) accumulate
silently.

The parallel sibling work item (the `_of_pos_lc` extraction filed
alongside this one) addresses two known `pos_lc`-source inline
derivations in the centeredLiftPoly corner. It is filed as its own
feature issue so the two can run in parallel and so this audit's
scope stays restricted to the `_of_monic` family.

## Verification

- A single audit comment posted on this issue, with PASS /
  DEVIATION verdicts for invariants 1, 2, 3, each backed by
  verbatim grep output.
- `python3 scripts/check_dag.py` exit 0.
- `git diff --check` clean and `git diff origin/main` empty
  (read-only — no file edits).
- No new files staged.

## Dependencies

- [ ] depends on: #5046
depends-on: #5046

**Comment by kim-em** [comment]
Session: `ab4dbc62-1078-483f-8d9d-09e9dd2155d8` Branch: `agent/ab4dbc62`

**Comment by kim-em** [comment]
Claimed by session `eefe71fb-321a-4c90-bdd5-cb22d0f78b3f` on branch `agent/eefe71fb`

**Comment by kim-em** [comment]
## Audit: post-#5046 / post-#5049 state of `zpoly_size_pos_of_monic`

All three invariants below are **PASS**. Verbatim grep output and classification follow.

### Invariant 1 — call-site coverage

```
$ grep -nE "rw \[Array\.back\?_eq_getElem\?\]" HexBerlekampZassenhausMathlib/*.lean
HexBerlekampZassenhausMathlib/Basic.lean:4464:      rw [Array.back?_eq_getElem?]; simp [hcs_zero]
HexBerlekampZassenhausMathlib/Basic.lean:8128:      rw [Array.back?_eq_getElem?]; simp [hcs_zero]
```

Both matches are inside cluster helpers' own bodies, not inline
derivations:

- `Basic.lean:4464` — inside `zpoly_size_pos_of_monic` itself
  (declared at `Basic.lean:4458`).
- `Basic.lean:8128` — inside `zpoly_size_pos_of_pos_lc` (declared at
  `Basic.lean:8123`, landed via #5058 / closed #5052).

No remaining inline `back?_eq_getElem?` callers — the chain only
appears inside the two helpers.

```
$ grep -nE "have h\w+_size_pos : 0 < \w+\.size := by" \
       HexBerlekampZassenhausMathlib/Basic.lean
5259:  have hh_size_pos : 0 < h.size := by
5285:  have hg_size_pos : 0 < g.size := by
5754:            have hrawGcd_size_pos : 0 < rawGcd.size := by

$ grep -nE "have h\w+_size_pos : 0 < \w+\.size := by" \
       HexBerlekampZassenhausMathlib/IntReductionMod.lean
841:  have hG_size_pos : 0 < G.size := by
2588:        have hq_size_pos : 0 < q.size := by omega
```

Classification of source hypothesis for each inline `have …_size_pos`:

| Site | Source hypothesis | In scope for `_of_monic`? |
|------|-------------------|---------------------------|
| `Basic.lean:5259` `hh_size_pos` | `0 < h.degree?.getD 0` (FpPoly positive degree) | No — not Monic-source |
| `Basic.lean:5285` `hg_size_pos` | `0 < (monicModularImage h).degree?.getD 0` (FpPoly positive degree) | No — not Monic-source |
| `Basic.lean:5754` `hrawGcd_size_pos` | `rawGcd ≠ 0` | No — not Monic-source |
| `IntReductionMod.lean:841` `hG_size_pos` | `G ≠ 0` (gcd ≠ 0) | No — not Monic-source |
| `IntReductionMod.lean:2588` `hq_size_pos` | trivial `omega` (induction inequality) | No — not Monic-source |

Zero inline Monic-source `size_pos` sites remain. The two known
`pos_lc`-source sites at `Basic.lean:8214` and `Basic.lean:8425` —
the scope of the sibling extraction issue #5057 / PR #5058 — were
already rewired before this audit ran (the helper `zpoly_size_pos_of_pos_lc`
is in place at `Basic.lean:8123`), so they do not surface as
deviations here.

```
$ git grep -n "zpoly_size_pos_of_monic" HexBerlekampZassenhausMathlib
HexBerlekampZassenhausMathlib/Basic.lean:4458:private theorem zpoly_size_pos_of_monic {f : Hex.ZPoly}
HexBerlekampZassenhausMathlib/Basic.lean:4494:    zpoly_size_pos_of_monic hfactor_monic
HexBerlekampZassenhausMathlib/Basic.lean:5341:  have hcore_size_pos : 0 < core.size := zpoly_size_pos_of_monic hcore_monic
HexBerlekampZassenhausMathlib/Basic.lean:6717:  have hpos := zpoly_size_pos_of_monic h
HexBerlekampZassenhausMathlib/Basic.lean:7426:  have hf_size_pos : 0 < f.size := zpoly_size_pos_of_monic hf_monic
HexBerlekampZassenhausMathlib/Basic.lean:7735:  have hg_size_pos : 0 < g.size := zpoly_size_pos_of_monic hg
HexBerlekampZassenhausMathlib/Basic.lean:7771:  have hg_size_pos : 0 < g.size := zpoly_size_pos_of_monic hg
HexBerlekampZassenhausMathlib/Basic.lean:7842:  have hcl_size_pos : 0 < cl.size := zpoly_size_pos_of_monic hcl_monic
HexBerlekampZassenhausMathlib/Basic.lean:7843:  have hlp_size_pos : 0 < lp.size := zpoly_size_pos_of_monic hlp_monic
HexBerlekampZassenhausMathlib/Basic.lean:8365:  have hf_size_pos : 0 < f.size := zpoly_size_pos_of_monic hmonic
HexBerlekampZassenhausMathlib/Basic.lean:8502:  have hlp_size_pos : 0 < lp.size := zpoly_size_pos_of_monic hlp_monic
HexBerlekampZassenhausMathlib/Basic.lean:8670:  have hlp_size_pos : 0 < lp.size := zpoly_size_pos_of_monic hlp_monic
HexBerlekampZassenhausMathlib/Basic.lean:10848:  have hlp_size_pos : 0 < lp.size := zpoly_size_pos_of_monic hlp_monic
```

Twelve invocations (including the post-#5049 rewire at line 4494 — the
former line 4479 `hcs_pos` inline block inside
`monic_primitive_sign_normalized_of_monic`) plus one declaration.
Every Monic→`0 < f.size` derivation in the BZMathlib tree now routes
through the helper.

**Invariant 1: PASS.**

### Invariant 2 — framing and docstring

Helper site at `Basic.lean:4457-4459`:

```
/-- Monic integer polynomials have positive stored size. -/
private theorem zpoly_size_pos_of_monic {f : Hex.ZPoly}
    (h : Hex.DensePoly.Monic f) : 0 < f.size := by
```

Cluster siblings for comparison:

```
Basic.lean:6713: /-- Monic integer polynomials are nonzero. -/
Basic.lean:6714: theorem zpoly_ne_zero_of_monic {f : Hex.ZPoly}

Basic.lean:6721: /-- Monic integer polynomials have positive leading coefficient. -/
Basic.lean:6722: theorem zpoly_lc_pos_of_monic {f : Hex.ZPoly}
```

The docstring is a single contract-first one-liner in the #5033
shape, with subject-then-conclusion phrasing matching both siblings
(`Monic integer polynomials …`). No `(#NNNN)` PR numbers, no session
metadata, no "extracted from …" provenance hints; the lines
immediately above the declaration are the body of the preceding
theorem `scaledRecombinationCandidate_eq_factor_of_…` (no section
comment to drift). Visibility is `private theorem` as the issue
requires.

**Invariant 2: PASS.**

### Invariant 3 — cross-file consistency

```
$ git grep -nE "^\s*private theorem zpoly_size_pos_of_monic" \
       HexBerlekampZassenhausMathlib
HexBerlekampZassenhausMathlib/Basic.lean:4458:private theorem zpoly_size_pos_of_monic {f : Hex.ZPoly}
```

Exactly one definition site, in `Basic.lean`. Not duplicated to
`IntReductionMod.lean`, not shadowed.

**Invariant 3: PASS.**

### Verdict

All three invariants pass; ready to close.
